US05430047
Step D: Preparation of 3-[1-[2-(4-Chlorophenyl)ethyl]-3-oxo-3-phenylpropyl]benzoic acid, methyl ester
A solution of SmI2 (48 mL, 0.1N, 4.4 mmol) in tetrahydrofuran is treated with hexamethylphosphoramide (HMPA) (3.75 mL, 2.19 mmol) and stirred 5 minutes. A solution of 1-chloro-4- (2-iodoethyl) -benzene (0.6 g, 2.25 mmol) in tetrahydrofuran (5 mL) is added, stirred 10 minutes and cooled to -78° C. A catalytic amount of CuBr.DMS (45 rag, 0.225 mmol) is added to the reaction mixture which is stirred 5 minutes before a solution of 3-(3-oxo-3-phenyl-1-propenyl)-benzoic acid, methyl ester (0.4 g, 1.5 mmol) and trimethylsilyl chloride (0.75 mL, 5.58 mmol) in tetrahydrofuran (6 mL) is added. The reaction is stirred in the cold for 30 minutes, diluted with diethyl ether (400 mL), and filtered over a 2" cake of Al2O3. The ethereal solution is washed with water, dried (MgSO4), and stirred with a few drops of tetrabutylammonium fluoride for 2 hours. The reaction mixture is concentrated and columned over SiO2 eluting with dichloromethane to collect 0.5 g of an oil which is clean by PMR.

reactant | hexamethylphosphoramide | 2.19 mmol, 3.75 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | 1-chloro-4- (2-iodoethyl) -benzene | 2.25 mmol, 0.6 g | ClC1=CC=C(C=C1)CCI | C8H8ClI
reactant | DMS | 0.225 mmol | CSC | C2H6S
reactant | 3-(3-oxo-3-phenyl-1-propenyl)-benzoic acid, methyl ester | 1.5 mmol, 0.4 g | O=C(C=CC=1C=C(C(=O)OC)C=CC1)C1=CC=CC=C1 | C17H14O3
reactant | trimethylsilyl chloride | 5.58 mmol, 0.75 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
product | 3-[1-[2-(4-Chlorophenyl)ethyl]-3-oxo-3-phenylpropyl]benzoic acid, methyl ester | ClC1=CC=C(C=C1)CCC(CC(C1=CC=CC=C1)=O)C=1C=C(C(=O)OC)C=CC1 | C25H23ClO3
